Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm here because I told her I would go to the
ED, and I keep my word"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
From the admission note written by Dr. ___:

"This is a ___ year old man with a history of unspecified 
psychotic
disorder and cannabis use disorder, two past psychiatric
hospitalizations for psychosis (most recently at ___ in 
the
beginning of this month), and no history of suicide attempts,
self-injurious or violent behavior, who presented to ___ ED by
himself after his female friend told him to go to an ED.

Patient reports that he came to ___ for the weekend to spend
time with his friend ___. He also hoped to see his female
friend ___, who he states he's in love with. 
According
to the patient, ___ had previously told him she'd invite him
to a party with her friends on ___ night. Patient says he
was so anxious about the prospect of seeing her that he threw up
his Friendly Toast breakfast on ___ morning (patient denies
any current nausea, vomiting or abdominal discomfort). However,
when he asked ___ about the time and location of the party,
she wouldn't respond. Patient also invited her to go to the
Museum of Science with him on ___ but she told him she was
busy working during the day, which he believes to be a lie.
Patient states he was having "mixed feelings" about it, so he
proceeded sending her multiple snapchat messages that he 
believes
expressed his mixed feelings well. Ultimately, ___ told him
that she was concerned about him and that he should go to an ED,
and patient promised her he would. 

When asked what he makes of ___ suggestion to go to the ED,
patient says "I don't know, I guess I sent too many messages...
She must think I'm crazy or something". Patient denies the
necessity of a psychiatric hospitalization for himself; he 
states
he only came to the ED because he'd told her he would, but that
he doesn't actually have any problems other than feeling quite
anxious. Patient also reports getting only about 2 hours of 
sleep
on ___ night and not getting much sleep in the ED on ___
night, but he says he's feeling tired at the time of his Deac 4
interview.

When asked what he makes of his prior psychiatric
hospitalizations, patient says that he was "smoking too much
weed" at the time and states that he hasn't smoked any marijuana
since his admission to ___ earlier this month. He says 
that
before his ___ admission he fell in love with another
woman, smoked a lot of marijuana, didn't sleep or eat for 
several
days, so his friends became concerned and too him to the
hospital. 

Since his ___ discharge, patient has been intermittently
compliant with his medication regimen; specifically, he states
that he likes taking Vistaril for anxiety but he hasn't seen 
much
effect from Buspar or Abilify. Patient states that he really
dislikes antipsychotics because they make him sluggish and "not
like himself". He is concerned if he'll have to take
antipsychotics on the unit or if he has a right to refuse select
medications. He's also notably concerned/perseverative regarding
___ rights, asking where he can learn more about them and
requesting another copy of his rights notification. 

Patient encouraged writer to talk to his father and friend ___ (collateral information from them was obtained in the ED)
but couldn't provide ___ phone number because he
doesn't have it, since they only communicate by snapchat
messaging. He also stated that he wouldn't want anyone to talk 
to
his mother who he strongly dislikes; he says she always puts him
and his father down, and he wonders why his father won't divorce
her.

Patient denied any SI/HI/violent thoughts or any history of
suicide attempts, self injury or violence. He denied feeling
sad/depressed, insomnia, loss of appetite, fatigue (other than
being sleepy after not getting enough sleep for 2 nights),
difficulty with concentration, AVH or recent manic/hypomanic
symptoms. Patient does endorse feeling increasingly anxious at
the time of interview because he needs to "take shower and 
change
into my clothes".

ED course: Patient became agitated shortly after his arrival on
___ and required IM haloperidol and lorazepam. On the 
morning
of ___ he was calm, friendly and cooperative."

COLLATERAL
___ (Dad) ___ (from ED Psychiatry
Consult Note by ___, MD from ___:
He has not been doing well. He was discharged from ___ on ___. He was not allowing his family to speak
with the doctors at ___. He was reporting being very angry at 
his
family. He did not follow up with any outpatient care. He did
have medications, unclear if he was taking these. He came by
yesterday morning to their place in ___. He seemed okay 
while
he was there, no paranoia, or worry. he said he was not going to
blame anybody anymore, and ideas that he had for the future. He
thought he was going to be going out with some girl when he got
here. The diagnosis was paranoia and self neglect, and discharge
diagnosis is unspecified psychotic disorder. He was admitted 
once
prior in ___. When he is doing poorly he if often paranoid
and anxious and labile. He is never violent. They are more
concern about his safety and inability to care for himself. He
doesn't eat or sleep during these times. His sister had once
visited him and he has not been sleeping for a few days. He 
lives
alone, so they only know limited amount of information. He has
smoked significant amount of marijuana in the past but unknown 
if
he 
___ insurance is ___

___ (Friend) ___ (from Collateral - friend by ___, MD from ___:
According to Mr. ___, patient had his first "psychotic break" 
in
college ___ years ago. Was living by himself then. Mr. ___
heard that ___ psychotic break was due to lack of sleep,
poor eating. Was at ___ for 2 weeks at the time,
came out, was completely normal.
A few months ago, patient left parents' house and started living
by himself. Three weeks ago, he started acting strangely around
some of their mutual friends, who ___ Mr. ___ that the
patient was talking about having created a "code with the
alphabet, was laughing at nothing, seemed off". One of the
friends went to the apartment, and reported "it was a mess, food
in the fridge rotten", and patient looked thinner; patient told
that friend at the time that "he has 13 voices in his head". Mr.
___ saw him at the time as well, and he was acting paranoid
towards family, obsessed with the number 13 and with a specific
woman ("I'm waiting for her, can't go anywhere"). They got him 
to
___ at the time, where he endorsed suicidal
thoughts, and he was hospitalized. He was paranoid about
everybody while waiting in the ED there. Was hospitalized in the
psychiatric unit there, and he "seemed like he was getting
better" and was discharged this past ___.
He still had some unusual behaviors after discharge ("I knew he
wasn't back to normal, he seemed very worried about everything,
about going back to work, about earning money"). ___ days ago,
the patient went to ___ "without telling anybody". He met 
with
a female college friend who lives in ___, a girl who he is
"obsessed with" and told her "I would do anything for you". The
female friend instructed him to go to the ED, which is when he
came to ___.

According to Mr. ___, the patient has been using marijuana 
since
high school, possibly used again after discharge from ___.
Mr. ___ also thinks that the patient has had increased alcohol
use. Has used "psychedelic stuff" in the past, but not recently.
Mr. ___ reports that patient is not forthcoming about his
symptoms and that he "started lying" at ___, minimizing 
his
symptoms in order to be released sooner.
Mr. ___ requested that the psychiatry team contact ___
father: ___ ___.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY: Per ___, MD's ___
initial ED consult note, updated as appropriate:
   - Prior diagnoses: Unspecified psychotic disorder
   - Hospitalizations: Patient with his first hospitalization in
___ in ___.  Most recent hospitalization was this month
discharged on the ___ from ___ with a diagnosis
of unspecified schizophrenia.
   - Current treaters and treatment: Patient reports that he did
not follow-up with outpatient providers following discharge from
___ facility.  Collateral notable for patient saying that
he does not trust doctors.
   - Medication and ECT trials: Patient reports variable
compliance with his Abilify 15 mg, BuSpar 15 mg twice a day, and
hydroxyzine 25 mg 3 times daily as needed for anxiety.  Patient
cannot recall other prior medications that he has been on
   - Suicide attempts: Reports, however cannot elaborate
   - Self-injurious behavior: denies
   - Harm to others: denies
   - Access to weapons: denies

PAST MEDICAL HISTORY: Per ___, MD's ___
initial ED consult note, updated as appropriate:
Patient reports he does quite "not know" if he has any other
medical problems
Patient reports one major head injury when he was in fourth 
grade
which required admission after being hit with a sled, in which
she lost consciousness and had vomiting.
Denies history of seizures.
Primary Care Physician: ___ in ___  

 
Social History:
SUBSTANCE USE HISTORY: Per ___, MD's ___
initial ED consult note, updated as appropriate:
   - Alcohol: Patient reports alcohol use on ___,
where he reports drinking 3 beers.
   - Tobacco: Patient reports, however cannot elaborate
   -Patient reports that he used to use marijuana daily, however
reports since discharge from ___ he has not been
smoking.  He does report that he "pretended" to smoke marijuana
on ___ and does not know if he inhaled.
   -He reports previously using LSD and mushrooms, however 
cannot
elaborate on timeframe, denies use over the last 24 hrs
   - Other illicit substances and IVDU: denies

FORENSIC HISTORY:
   - Arrests: denies
   - Convictions and jail terms: denies
   - Current status (pending charges, probation, parole): denies

SOCIAL HISTORY: Per ___, MD's ___
initial ED consult note, updated as appropriate:
   - Born/Raised: Patient was born in ___ and was
largely raised in ___.  He did spend some of his earlier
years in ___.  Has 1 older sister.  His parents are still
married and live in ___.
   - Family/Support: Patient reports that he trusts his father. 
He does not trust his sister who he thinks is a liar, and he 
does
not trust his mom who he thinks is mean.  He considers his 
friend
___ as his primary support system. 
   - Relationship status/Children: Single 
   - Housing: Patient lives on his own in an apartment in 
___
   - Education: Patient graduated high school.  He started at
___, however did not complete college
   - Employment/Income: Patient reports he is currently working
at ___ as a ___ in ___
   - Trauma history: Patient reports that his mother punched him
in the past.  Denies any other trauma history

 
Family History:
FAMILY PSYCHIATRIC HISTORY: Per ___, MD's ___
initial ED consult note, updated as appropriate:
   -History of psychiatric disorders: Patient believes his 
mother
has a history of bipolar disorder, which is untreated.  Mom also
uses alcohol per the patient
   -History of suicide attempts: denies
   -History of substance use: denies
 
Physical Exam:
EXAM ON ADMISSION:
VS: ___ HR:78 BP:115/66 RR:16 SpO2: 100% RA 
  
General:
 -HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
 oropharynx clear. No scleral icterus.
 -Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
 murmurs/rubs/gallops. Distal pulses ___ throughout.
 -Pulmonary: No increased work of breathing.  Lungs clear to
 auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive.  No
 tenderness to palpation in all quadrants.  No guarding, no
 rebound tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: No rashes or lesions noted.

Neurological:  
  - Station and gait: normal stance, no truncal ataxia, steady
gait
  - Tone and strength: grossly intact, spontaneously moves all
extremities
  - Cranial nerves: EOMI, no facial asymmetry, hearing intact
bilaterally
  - Abnormal movements: no tics, tremor, or abnormal posturing
    
 Mental Status:
  - Appearance: Young man appearing his stated age with
appropriate grooming and hygiene, dressed in hospital gown, no
apparent distress. 
  - Behavior: Patient is readily cooperative and friendly but
oddly detached at the same time, sits calmly in his chair
straight up facing squarely forward, good to intense eye contact 

  - Mood: "Good" 
  - Affect: euthymic, somewhat constricted
  - Thought process: Generally linear and goal oriented but 
quite
overinclusive; no loose associations.
  - Thought Content: denies SI/HI.  Denies AH/VH.  Patient has
some paranoia surrounding people lying to him, and his family
members
 - Judgment and Insight: limited/limited

Cognition: 
  - Wakefulness/alertness: awake and alert
  - Attention: Can complete ___
  - Orientation: oriented to person, time, place, situation
  - Executive function (go-no go, Luria, trails, FAS): not 
tested
  - Memory: 3 out of 3 registration, 3 out of 3 recall after 5
min
  - Fund of knowledge: consistent with education
  - Calculations: $2.25 = "9 quarters"
  - Abstraction: apple + orange = "fruits"
  - Proverb: interprets "don't judge a book by its cover" as 
"you
cannot judge by outward appearance "
  - Visuospatial: not assessed
  - Speech: normal rate, volume, rhythm, and tone
  - Language: fluent ___

ON DISCHARGE:
Mental Status Exam:
Appearance: Well-groomed
facial expression: Friendly, smiling on approach 
build: WNL
Behavior: Engaging, cooperative, pleasant
eye contact: direct 
psychomotor: no abnormal involuntary movements, gait - normal,
Speech: normal rate, volume and tone
Mood/affect "I am looking forward to going home today", stable, 
no
irritability, no angry outbursts
thought Process/content: Reality oriented, goal-directed, denies
SI/HI, denies AH/VH/delusions, no racing thoughts
Intellectual Functioning: Better concentration
Oriented: x3
Memory: Grossly intact
insight: Fair 
Judgment: Fair

 
Pertinent Results:
___ 07:10PM BLOOD WBC-8.8 RBC-4.88 Hgb-15.3 Hct-43.1 MCV-88 
MCH-31.4 MCHC-35.5 RDW-12.2 RDWSD-39.4 Plt ___
___ 07:10PM BLOOD Neuts-67.0 ___ Monos-7.5 Eos-1.0 
Baso-0.5 Im ___ AbsNeut-5.88 AbsLymp-2.09 AbsMono-0.66 
AbsEos-0.09 AbsBaso-0.04
___ 07:10PM BLOOD ___ PTT-26.7 ___
___ 07:10PM BLOOD Glucose-96 UreaN-11 Creat-1.0 Na-138 
K-3.8 Cl-100 HCO3-24 AnGap-14
___ 07:10PM BLOOD ALT-12 AST-21 AlkPhos-57 TotBili-0.8
___ 07:10PM BLOOD Albumin-4.8 Calcium-9.8 Phos-3.8 Mg-2.2 
Cholest-165
___ 08:43PM BLOOD %HbA1c-5.3 eAG-105
___ 07:10PM BLOOD Triglyc-48 HDL-71 CHOL/HD-2.3 LDLcalc-84
___ 07:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:15PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient was signed in on a section 12b, as he 
was determined to not have capacity to fully understand and 
appreciate the implications of signing a conditional voluntary 
form. On ___, patient was determined to have capacity to sign a 
conditional voluntary agreement and he decided to sign in 
voluntarily at that time. He remained on a CV throughout the 
remainder of his admission. 

He was also placed on 15 minute checks status on admission and 
remained on that level of observation throughout while being 
unit restricted.

2. PSYCHIATRIC:

#) On admission to the unit, the patient appeared somewhat oddly 
related, paranoid, inattentive. He endorsed anxiety related to 
the circumstances that precipitated his admission and confusion 
as to what was happening to him.

#) Diagnostically, ___ presentation is most either a 
substance-related or primary psychotic disorder. Patient has 
previously connected his symptoms to substance use, though given 
that patient continued to experience psychotic symptoms 
following his discharge from ___ 
despite having
stopped smoking marijuana prior to admission, this may be a less 
likely explanation. Nonetheless, further diagnostic 
clarification will come with an extended period of sobriety. At 
this time, there is no clear indication that his admission is 
related to an affective disorder such as depression or bipolar 
disorder, or related to substances other than possibly 
marijuana.

#) The patient was offered Paliperidone 6 mg, and following 
informed consent related to the possible risks and benefits of 
the medication he agreed to start treatment. He was also offered 
Ramelteon for sleep as well as Hydroxyzine for anxiety as 
needed. He was discontinued off Buspar and Abilify, which he had 
been taking prior to discharge.

#) Patient reports that he has tolerated paliperidone without 
any side effects. He notes that his thinking has become more 
clear, and his mood and sleep have also improved. He has 
demonstrated significantly less paranoia as well as increased 
insight related to the precipitants of his admission. On 
discharge, patient demonstrated euthymic affect, pleasant and 
calm behavior, no indication of internal preoccupation, and 
reported no auditory hallucinations.

#) Patient will benefit from ongoing monitoring from his 
paliperidone treatment. Depending on medication adherence, a 
sustenna formulation may be considered in the future. 

3. SUBSTANCE USE DISORDERS:
#) Cannabis: Patient was extensively counseled on his marijuana 
use prior to admission and provided psychoeducation on the 
relation to his marijuana use to his psychotic symptoms. Patient 
expressed understanding as well as a commitment to abstain from 
marijuana use and strategies to avoid use when spending time 
with his friends, who continue to use regularly.

4. MEDICAL
#) No medical issues; offered acetaminophen and Maalox as 
needed.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. In the milieu, patient was 
interactive and appropriate with other patients.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT

Father ___ (___)
- Updated during admission, source of collateral, coordination 
of aftercare

___ (Friend) ___
- Collateral during admission

#) INTERVENTIONS
- Medications: 

PALIperidone ER 6 mg PO QHS 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, (including sexual, orthostatic, 
anticholingergic, and metabolic side effects) as well as 
benefits of possible alternatives, including not taking the 
medication, with this patient.   We discussed the ___ 
right to decide whether to take this medication as well as the 
importance of the ___ actively participating in the 
treatment and discussing any questions about medications with 
the treatment team.  The patient appeared able to understand and 
consented to begin the medication.

- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.

- Coordination of aftercare: 

Adult Intake Evaluation:
___ (Health Care and Rehab Services)
on ___ at 8:30 am 
___, ___
Telephone: ___ or ___ (Ms. ___ 
___: ___

Intake anticipates referral to see a therapist and psychiatrist

Initial meeting with ___ followed by
Assessment with ___ (therapist) and Dr. ___ 
___ (psychiatrist) for medication management and cannabis use 
disorder counseling.

Appointment with PCP:
Dr. ___, ___ @ 11AM
Phone: ___
Fax: ___
___, ___

-Guardianships: N/A

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon his disorganized 
behavior, paranoia, and anxiety.  His static factors noted at 
that time include history of substance abuse, recent discharge 
from an inpatient psychiatric unit, male gender, Caucasian race, 
and marital status.  The modifiable risk factors were also 
addressed at that time: psychosis and disorganized behavior 
(started Paliperidone), medication noncompliance (discussed side 
effects of medication, obtained informed consent), lack of 
engagement with outpatient treatment (coordinated care for 
outpatient provider back in ___ and insomnia (addressed 
primary psychiatric disorder and also provided appropriate 
PRNs). Finally, the patient is being discharged with many 
protective risk factors, including help-seeking nature, 
future-oriented viewpoint, sense of responsibility to family, 
life satisfaction, reality testing ability, lack of suicidal 
ideation, and strong social supports. Overall, the patient is 
not at an acutely elevated risk of self-harm nor danger to 
others due to acutely decompensated psychiatric illness. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 15 mg PO DAILY 
2. BusPIRone 15 mg PO BID 
3. HydrOXYzine 25 mg PO TID 

 
Discharge Medications:
1.  PALIperidone ER 6 mg PO QHS 
RX *paliperidone 6 mg 1 tablet(s) by mouth at night Disp #*30 
Tablet Refills:*0 
2.  Ramelteon 8 mg PO QHS:PRN insomnia 
RX *ramelteon [Rozerem] 8 mg 1 tablet(s) by mouth nightly Disp 
#*15 Tablet Refills:*0 
3.  HydrOXYzine 25 mg PO TID 
RX *hydroxyzine HCl 25 mg 1 by mouth nightly Disp #*15 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Psychotic disorder not otherwise specified
Cannabis Use Disorder

 
Discharge Condition:
Mental Status: Clear and coherent
Level of consciousness: Alert and interactive
Activity status: Ambulatory/independent

 
Discharge Instructions:
You were hospitalized at ___ for concerning behavior and 
anxiety.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___